US07598391B2
1,1-Dicyclohexyl-3-[5-(4-oxo-piperidin-1-ylmethyl)-thiazol-2-yl]-urea
Prepared as described in general procedure (P) using 1,1-dicyclohexyl-3-(5-formyl-thiazol-2-yl)-urea (34 mg. 0.10 mmol), 4-piperidone hydrochloride (46 mg, 0.30 mmol) and sodium triacetoxyborohydride (25 mg, 0.12 mmol) to afford 5 mg (12%) of the desired product after purification.

reactant | 1,1-dicyclohexyl-3-(5-formyl-thiazol-2-yl)-urea | 0.10 mmol, 34 mg | C1(CCCCC1)N(C(=O)NC=1SC(=CN1)C=O)C1CCCCC1 | C17H25N3O2S
reactant | 4-piperidone hydrochloride | 0.30 mmol, 46 mg | Cl.N1CCC(CC1)=O
reactant | sodium triacetoxyborohydride | 0.12 mmol, 25 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
product | 1,1-Dicyclohexyl-3-[5-(4-oxo-piperidin-1-ylmethyl)-thiazol-2-yl]-urea | 5 mg, 12% | C1(CCCCC1)N(C(=O)NC=1SC(=CN1)CN1CCC(CC1)=O)C1CCCCC1 | C22H34N4O2S
